US06239126B1
4-(2-Methoxyphenyl)piperidine (1.0 g, 4.39 mmol) was added to a solution of N-Boc-3′-(3′-pyridyl)-D-alanine (1.17 g, 4.39 mmol), DEAC (0.84 g, 4.39 mmol), and HOBT (0.77 g, 1.3 eq.) in DMF (20 mL) at 0° C., followed by the addition of NMM (0.7 mL, 1.5 eq.). The mixture was stirred under nitrogen overnight at ambient temperature, then diluted with ethyl acetate (50 mL), washed with 0.1N HCl (15 mL), saturated NaHCO3, H2O and finally brine. The organic phase was dried over anhydrous Na2SO4, filtered and concentrated under vacuum to yield crude product (100%). This was stirred in 4.0M HCl/dioxane (40 mL) overnight and concentrated to afford the amine hydrochloride salt, from which the free base was liberated by treatment with a saturated NaHCO3 solution. The amide was dissolved in THF (50 mL) and the resulting solution treated with the dropwise addition of BH3.THF (10 equivalents) and the mixture refluxed for 16 hours. After cooling, the reaction was terminated by the addition of 2N HCl, and after stirring for eight hours the mixture was concentrated in vacuo. The aqueous solution was made basic and the product extracted into EtOAc (3×25 mL), the combined organics were washed with water (50 mL), brine, separated and dried over anhydrous Na2SO4. Filtration and concentration under vacuum gave the required product (100% yield). Under a N2 atmosphere, a solution of {(1R)-1-(3-pyridyl-methyl)-2-[4-(5-fluoro-2-methoxyphenyl)-piperidin-1-yl]-ethyl}-amine (0.13 g, 0.33 mmole), and triethylamine (0.10 mL, 0.74 mmole) in dichloromethane (10 mL) was cooled to 0° C. Cyclohexyl isocyanate (0.050 mL, 0.35 mmole) was added dropwise and the resulting mixture was stirred at 0° C. to room temperature (ice melt) overnight. The solvent was evaporated and the residue dissolved in EtOAc (25 mL) and water (25 mL). The layers were separated and the organic layer washed with water (25 mL) and brine. The combined organic washings were extracted three times with EtOAc (25 mL), then dried over Na2SO4, filtered and concentrated. Flash chromatography (elution with 7:3 EtOAc-hexane) to give 0.16 g (100% yield) of 1-{(1R)-1-(pyridin-3-yl-methyl)-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-3-cyclohexyl-urea. An ethanolic solution of the product was heated to gentle reflux and 1 equivalent of fumaric acid in hot ethyl alcohol solution was added to afford the fumarate salt of the titled compound as a white solid.

reactant | {(1R)-1-(3-pyridyl-methyl)-2-[4-(5-fluoro-2-methoxyphenyl)-piperidin-1-yl]-ethyl}-amine | 0.33 mmole, 0.13 g | N1=CC(=CC=C1)C[C@H](CN1CCC(CC1)C1=C(C=CC(=C1)F)OC)N | C20H26FN3O
reactant | triethylamine | 0.74 mmole, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | Cyclohexyl isocyanate | 0.35 mmole, 0.050 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-{(1R)-1-(pyridin-3-yl-methyl)-2-[4-(5-fluoro-2-methoxy-phenyl)-piperidin-1-yl]-ethyl}-3-cyclohexyl-urea | 0.16 g, 100% yield | N1=CC(=CC=C1)C[C@H](CN1CCC(CC1)C1=C(C=CC(=C1)F)OC)NC(=O)NC1CCCCC1 | C27H37FN4O2
